US04062862
To perbenzoic acid in chloroform prepared from 15 g of benzoylperoxide was added 6.0 g of o-benzylallylbenzene and the mixture was allowed to stand at 5° C for 3 days. The mixture was washed with 2% sodium hydroxide solution, Mohr's salt solution, then water, and dried over anhydrous sodium sulfate. The solvent was evaporated to obtain the residue, which was chromatographed over a silica gel, and as eluted with benzene/n-hexane (1/1), there was obtained 1.5 g of o-benzylallylbenzene oxide as an oily substance.

reactant | perbenzoic acid | C1=CC=CC=C1C(=O)OO | C7H6O3
reactant | benzoylperoxide | 15 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | o-benzylallylbenzene | 6.0 g | C(C1=CC=CC=C1)C=CCC1=CC=CC=C1 | C16H16
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | o-benzylallylbenzene oxide | 1.5 g | C(C1=CC=CC=C1)C=CCC12C(C=CC=C1)O2 | C16H16O
